* source PRACTICA 03
V_V1         N00302 N00350  AC 0
+SIN 0 311 50 0 0 0
L_L1         N00302 N00322  1mF  
R_R2         0 N00381 10
R_R3         N00336 N00322 10m
D_D2         N00336 N00381 Dbreak 
D_D3         0 N00336 Dbreak 
D_D4         0 N00350 Dbreak 
D_D5         N00350 N00381 Dbreak 
C_C1         0 N00381  1mF  TC=0,0 
