* source PRACTICA 02
V_V1         N00171 0  AC 0
+SIN 0 311 50 0 0 0
L_L1         N00191 N00205 Lbreak 10mH 
D_D1         N00171 N00191 Dbreak 
V_V2         N00205 0 150
